US07989457B2
A solution of 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester (232 mg, 1.04 mmol) and 1-[4-(5-trifluoromethyl-pyridin-2-yl)-phenyl]-pentan-1-ol (258 mg, 0.830 mmol) in toluene (5.0 mL) is degassed and filled with nitrogen for 3 times. Tributyl-phosphine (0.310 mL, 1.50 mmol) is added to the reaction mixture under nitrogen at 0° C., followed by addition of 1,1′-(azodicarbonyl)-dipiperidine (316 mg, 1.50 mmol). The reaction mixture is allowed to warm to room temperature and stirred over night, the mixture is loaded on silica gel column. The 3-(4-{1-[4-(5-trifluoromethyl-pyridin-2-yl)-phenyl]-pentyloxy}-benzoylamino)-propionic acid methyl ester (205 mg, 0.40 mmol), 47%, is obtained in purified form after flash column chromatography.

reactant | 3-(4-hydroxy-benzoylamino)-propionic acid methyl ester | 1.04 mmol, 232 mg | COC(CCNC(C1=CC=C(C=C1)O)=O)=O | C11H13NO4
reactant | 1-[4-(5-trifluoromethyl-pyridin-2-yl)-phenyl]-pentan-1-ol | 0.830 mmol, 258 mg | FC(C=1C=CC(=NC1)C1=CC=C(C=C1)C(CCCC)O)(F)F | C17H18F3NO
reactant | Tributyl-phosphine | 1.50 mmol, 0.310 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 1.50 mmol, 316 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-{1-[4-(5-trifluoromethyl-pyridin-2-yl)-phenyl]-pentyloxy}-benzoylamino)-propionic acid methyl ester | 0.40 mmol, 205 mg | COC(CCNC(C1=CC=C(C=C1)OC(CCCC)C1=CC=C(C=C1)C1=NC=C(C=C1)C(F)(F)F)=O)=O | C28H29F3N2O4
